US07662974B2
Preparation of (1R,2S,5R)-2-isopropyl-5-methylcyclohexyl 3-hydroxy-3-phenylbutanoate
20.4 mL (20 mmol, 2 equivalents) of the solution of (−)-menthyl bromozincacetate in tetrahydrofuran obtained in Example 63 was added dropwise to a solution of 0.58 mL (5 mmol) of acetophenone in 3 mL of THF at 5˜7° C. The mixture was stirred at 3˜7° C. for 4 hours. 10 mL of 1H hydrochloric acid was added at 20° C. or lower, followed by dilution with 20 mL of ethyl acetate. Then, the layers were separated. The organic layer was washed successively with 5 mL of 1N hydrochloric acid, 5 mL of water, 10 mL and 5 mL of an aqueous saturated sodium bicarbonate solution, and 5 mL (×2) of an aqueous saturated sodium chloride solution. After washing, the organic layer was dried with anhydrous magnesium sulfate. After concentration under reduced pressure, purification with silica gel column (developing solvent; ethyl acetate/n-hexane=1/5, 1/3) afforded 1.69 g of the desired product (NMR yield 92%; internal standard dioxane). Recrystallization with n-hexane afforded 0.74 g of the desired product (yield 47%).

reactant | acetophenone | 5 mmol, 0.58 mL | C(C)(=O)C1=CC=CC=C1 | C8H8O
reactant | hydrochloric acid | Cl | ClH
reactant | ethyl acetate | 20 mL | C(C)(=O)OCC | C4H8O2
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
solvent | THF | 3 mL | C1CCOC1 | C4H8O
product | (1R,2S,5R)-2-isopropyl-5-methylcyclohexyl 3-hydroxy-3-phenylbutanoate | 1.69 g, yield 92% | OC(CC(=O)O[C@H]1[C@@H](CC[C@H](C1)C)C(C)C)(C)C1=CC=CC=C1 | C20H30O3
